US06458772B1
To a solution of 6-hydroxynicotinic acid (4.87 g, 35 mmol) in DMF (100 mL) at room temperature, was added potassium tert-butoxide (3.93 g, 35 mmol). The reaction mixture was stirred at 60° C. for 1 h. 4-Methoxybenzylchloride (8.30 g, 53 mmol) was added and the reaction mixture was stirred at 60° C. for 4 h. The DMF was evaporated under vacuum, the residue was dissolved in ether (200 mL) and washed with water (3×100 mL). The organic phase was dried with Na2SO4 and evaporated to give 4.41 g of 6-oxo-1,6-dihydro-pyridine-3-carboxylic acid 4-methoxybenzyl ester.

reactant | 6-hydroxynicotinic acid | 35 mmol, 4.87 g | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | potassium tert-butoxide | 35 mmol, 3.93 g | CC(C)([O-])C.[K+]
reactant | 4-Methoxybenzylchloride | 53 mmol, 8.30 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 6-oxo-1,6-dihydro-pyridine-3-carboxylic acid 4-methoxybenzyl ester | 4.41 g | COC1=CC=C(COC(=O)C2=CNC(C=C2)=O)C=C1 | C14H13NO4
